US08729274B2
cis-3a-Methyl-6-((Z)-prop-1-enyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole hydrochloride (0.352 mmol, 80 mg) was dissolved in EtOH (2 ml) and palladium (5% on carbon) (0.035 mmol, 3.74 mg) was added. The resulting suspension was stirred under an atmosphere of hydrogen (balloon) for 72 h. Acetic acid (1 ml) and further palladium (5% on carbon) (0.035 mmol, 3.74 mg) was added and the reaction mixture left to stir for further 2 hours and then filtered through dicalite. The filtrate was concentrated in vacuo and the resulting crude residue was passed through an SCX cartridge and then purified by silica column chromatography (eluting with DCM—16% (2 N NH3 in MeOH)/DCM)). The pure fractions were concentrated in vacuo and then dissolved in DCM (1 ml) and 2N HCl in ether added. The resulting solution was concentrated in vacuo to afford cis-3a-methyl-6-propyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole hydrochloride 27 mg. m/z: 230.1 [M+H]+.

reactant | cis-3a-Methyl-6-((Z)-prop-1-enyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole hydrochloride | 0.352 mmol, 80 mg | Cl.C[C@@]12CCC3=C([C@H]2CNC1)C=CC=C3\C=C/C
reactant | Acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | EtOH | 2 ml | CCO | C2H6O
catalyst | palladium | 0.035 mmol, 3.74 mg | [Pd] | Pd
catalyst | palladium | 0.035 mmol, 3.74 mg | [Pd] | Pd
product | cis-3a-methyl-6-propyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole hydrochloride | 27 mg | Cl.C[C@@]12CCC3=C([C@H]2CNC1)C=CC=C3CCC | InChI=1S/C16H23N.ClH/c1-3-5-12-6-4-7-14-13(12)8-9-16(2)11-17-10-15(14)16;/h4,6-7,15,17H,3,5,8-11H2,1-2H3;1H/t15-,16-;/m1./s1
